US08242174B2
(R)-methyl 6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoate (E6)
To a solution of crude (R)-6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoic acid (0.163 g, 0.552 mmol) in 10 mL of dichloromethane/methanol (4:1), trimethylsilyldiazomethane was added dropwise until the solution became yellow. After stirred at room temperature under N2 for 30 min, the reaction mixture was concentrated under reduced pressure. The product was isolated by Flash column chromatography (silica gel column) eluting with 0-100% dichloromethane/hexanes to give the title compound as colorless oil (0.141 g, 83% yield)

reactant | (R)-6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoic acid | 0.552 mmol, 0.163 g | FC1=C(C=C(COCCCC[C@H](C(=O)O)N=[N+]=[N-])C=C1)C | C14H18FN3O3
reactant | dichloromethane methanol | 10 mL | ClCCl.CO
solvent | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
product | (R)-methyl 6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoate | 0.141 g, 83% yield | FC1=C(C=C(COCCCC[C@H](C(=O)OC)N=[N+]=[N-])C=C1)C | C15H20FN3O3
